US05284899
32.22 g (0.1 mole) of 3,3',4,4'-benzophenonetetracarboxylic acid dianhydride was dissolved in 240 g of N-methyl-2-pyrrolidone in a four-necked separable flask provided with a thermometer, a stirrer, a raw material inlet and a dry nitrogen gas-introducing tube. Thereto were added 10.63 g (0.06 mole) of 2,6-diamino-4-trifluoromethylpyridine and 4.88 g (0.04 mole) of 2,4-diaminotoluene. The system was stirred for 5 hours at 20° C. to complete the reaction. During the period, dry nitrogen was continuously blown. Subsequently, 72 g of toluene was added thereto. The dry nitrogen gas-introducing tube was removed, and instead a Dean Stark reflux condenser was fitted. The ice bath was removed and the system was heated using an oil bath. The heating was continued to allow imidization to proceed at 140°-150° C. while the water generated by imidization was discharged out of the system by azeotropy with toluene. After 5 hours water generation was over, and the imidization reaction was stopped. The resulting polyimide varnish was dropwise added to 30 liters of pure water in 1 hour with stirring, to precipitate a resin. Filtration was conducted to recover a solid content. The solid was dried in a drier at 120° C. for 3 hours to obtain a polyimide resin. The polyimide resin was measured for FT-IR spectrum to determine its imidization degree from (a) an absorption of amide bond before imidization, appearing at 1650 cm-1 and (b) an absorption of imide ring, appearing at 1780 cm-1. As a result, the imidization degree was 100%.

reactant | 3,3',4,4'-benzophenonetetracarboxylic acid dianhydride | 0.1 mole, 32.22 g | C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C17H6O7
reactant | 2,6-diamino-4-trifluoromethylpyridine | 0.06 mole, 10.63 g | NC1=NC(=CC(=C1)C(F)(F)F)N | C6H6F3N3
reactant | 2,4-diaminotoluene | 0.04 mole, 4.88 g | NC1=C(C=CC(=C1)N)C | C7H10N2
reactant | toluene | 72 g | C1(=CC=CC=C1)C | C7H8
reactant | N-methyl-2-pyrrolidone | 240 g | CN1C(CCC1)=O | C5H9NO
solvent | water | 30 liters | O | H2O
product | polyimide resin | CC1(CC(C2=C1C=C(C=C2)N)(C)C3=CC=C(C=C3)N)C.C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | InChI=1S/C18H22N2.C17H6O7/c1-17(2)11-18(3,12-4-6-13(19)7-5-12)15-9-8-14(20)10-16(15)17;18-13(7-1-3-9-11(5-7)16(21)23-14(9)19)8-2-4-10-12(6-8)17(22)24-15(10)20/h4-10H,11,19-20H2,1-3H3;1-6H
